US06458961B1
Preparation of Chloromethyl 3-Benzyloxybenzoate
To the potassium salt of 3-benzyloxybenzoic acid (2.39 g, 8.91 mmol) was added the bromochloromethane (8.7 ml, 15 eq.) and DMF (10.7 mL). The mixture was then stirred at room temperature for 12-18 hours. The mixture was then filtered and the filtrate concentrated. Purification of the crude product via flash chromatography (EtOAc: Hexanes 1:10) yielded 1.2 g of the title compound as a light yellow oil. 1H NMR (300 MHz, CDC13)δ=5.12 (s, 2H), 5.96 (s, 2H), 7.22-7.25 (m, 1H), 7.26-7.47 (m, 6H), 7.68-7.72 (m, 2H), MS(ESI) 276.

reactant | potassium | [K] | K
reactant | 3-benzyloxybenzoic acid | 8.91 mmol, 2.39 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1 | C14H12O3
reactant | bromochloromethane | 8.7 ml, 15 eq. | BrCCl | CH2BrCl
solvent | DMF | 10.7 mL | CN(C)C=O | C3H7NO
product | Chloromethyl 3-Benzyloxybenzoate | 1.2 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCCl)C=CC1 | C15H13ClO3
